US03997539
A stirred mixture of 7.92 g (0.025 mol) of 3-[2-(4-aminopiperazin-1-yl)ethyl]-5,6-dimethoxy-2-methylindole and 3.54 g (0.035 mol) of triethylamine in 75 ml. of chloroform is cooled to -5° C., with the exclusion of moisture. Then a solution of 4.20 g (0.03 mol) of benzoyl chloride in 6 ml. of chloroform is added dropwise over a 30 minute span, while maintaining a temperature of 0°-5° C. After total addition, the mixture is stirred at ambient temperature for two hours. Then 50 ml. of 10% sodium hydroxide is added, followed by 50 ml. of ethyl ether to promote crystallization. After stirring for 15minutes, another 100 ml. of ethyl ether is added to improve crystallization form. The product is filtered, washed well with water, then ethyl ether and dried. This crystalline product is recrystallized twice from DMF and water mixture to give pure needles of 3-[2-(4 -benzamidopiperazin-1-yl)ethyl]-5,6-dimethoxy-2-methylindole, m.p. 128°-131° C. Analysis: Calculated for C24H30N4O3 : 68.22% C; 7.16% H; 13.26% N Found: 68.03% C; 7.14% H; 13.12% N.

reactant | 3-[2-(4-aminopiperazin-1-yl)ethyl]-5,6-dimethoxy-2-methylindole | 0.025 mol, 7.92 g | NN1CCN(CC1)CCC1=C(NC2=CC(=C(C=C12)OC)OC)C | C17H26N4O2
reactant | triethylamine | 0.035 mol, 3.54 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.03 mol, 4.20 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-[2-(4 -benzamidopiperazin-1-yl)ethyl]-5,6-dimethoxy-2-methylindole | C(C1=CC=CC=C1)(=O)NN1CCN(CC1)CCC1=C(NC2=CC(=C(C=C12)OC)OC)C | C24H30N4O3
